US04590195
A solution of 4-azidobutanol (6.8 g) in tetrahydrofuran (100 ml) was added dropwise over 30 minutes to a suspension of sodium hydride (5.4 g; 60% dispersion in oil) in tetrahydrofuran (100 ml). The mixture was stirred at room temperature for 30 minutes and then treated with a solution of ethyl 4-chloroacetoacetate (9.7 g) in tetrahydrofuran (150 ml) dropwise over 30 minutes. The mixture was stirred at room temperature for 16 hours, poured into water and the pH adjusted to 3-4 with 2M hydrochloric acid. The aqueous solution was extracted with ethyl acetate (3×200 ml) and the organic layer was dried (MgSO4) and evaporated to give an oil which was taken up in acetonitrile and washed with petrol. The solvent was evaporated to dryness and the residue was chromatographed on silica eluting with a mixture of petrol and methylene chloride. Fractions containing the product were evaporated to give ethyl 4-(4-azidobutoxy)acetoacetate as a yellow oil (4.5 g). Methyl 3-aminocrotonate (2.2 g) and 2-chlorobenzaldehyde (2.7 g) in methanol (50 ml) were added and the mixture was heated under reflux for 5 hours and then evaporated. The residue was chromatographed on silica eluting with a mixture of petrol and ethyl acetate to give 2-(4-azidobutoxy)methyl-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (5.9 g) as a yellow oil. The product was taken up in methanol (70 ml) and stirred at room temperature for 16 hours under 1 atmosphere of hydrogen in the presence of 5% palladium on calcium carbonate catalyst (2.0 g). The reaction mixture was filtered and concentrated. The residue was treated with a solution of fumaric acid (1.0 g) in methanol. The resulting precipitate was collected, treated with 2M ammonium hydroxide and extracted with methylene chloride (2×25 ml). The organic layer was washed with water, dried (MgSO4), filtered and evaporated to give 2-(4-aminobutoxy)methyl-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (2.2 g) as a yellow oil. The product was used in the next stage without further purification.

reactant | 4-azidobutanol | 6.8 g | N(=[N+]=[N-])CCCCO | C4H9N3O
reactant | sodium hydride | 5.4 g | [H-].[Na+]
reactant | ethyl 4-chloroacetoacetate | 9.7 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethyl 4-(4-azidobutoxy)acetoacetate | 4.5 g | N(=[N+]=[N-])CCCCOCC(CC(=O)OCC)=O | C10H17N3O4
